US07259183B2
562 mg (4 mmol) of 2-(4-fluoro-phenyl) ethyl amine were added to 733 mg (4 mmol) of 4-trifluoromethyl benzaldehyde dissolved in 40 ml methanol. The reaction mixture was stirred at rt over night under nitrogen. 151 mg (4 mmol) of sodium borohydride were added in portions and the reaction mixture was stirred for 2 h at rt. The solvent was evaporated and the residue was dissolved in DCM. The organic layer was washed with water and with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (60 g silica gel; DCM/methanol 19:1) to yield 1.16 g (98%) of [2-(4-fluoro-phenyl)-ethyl]-(4-trifluoromethyl-benzyl)-amine as a light yellow oil. 1H NMR (DMSO-d6, 300 MHz): δ 7.65 (d, 2H), 7.52 (d, 2H), 7.21 (dd, 2H), 7.06 (dd, 2H), 3.79 (s, 2H), 2.70 (s, 4H).

reactant | 2-(4-fluoro-phenyl) ethyl amine | 4 mmol, 562 mg | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | 4-trifluoromethyl benzaldehyde | 4 mmol, 733 mg | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | sodium borohydride | 4 mmol, 151 mg | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | [2-(4-fluoro-phenyl)-ethyl]-(4-trifluoromethyl-benzyl)-amine | 1.16 g, 98% | FC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)C(F)(F)F | C16H15F4N
